datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]([C:2](=[C:3]([C:4]([H:10])([H:11])[H:12])[H:9])[H:8])[H:7])([H:5])[H:6].[H:13]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([H:10])([H:11])[H:12])([H:9])[H:13])[H:8])[H:7])([H:5])[H:6],1.58992
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[C:4]([H:9])([H:10])[H:11])[H:5].[C:12]1([H:21])([H:22])[C:13]([H:23])([H:24])[C:14]([H:25])([H:26])[C:15]2([H:27])[C:16]([H:28])([H:29])[C:17]([H:30])([H:31])[C:18]([H:32])([H:33])[C:19]2([H:34])[C:20]1([H:35])[H:36]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([C:4]([H:9])([H:10])[H:11])[H:30])[H:5].[C:12]1([H:21])([H:22])[C:13]([H:23])([H:24])[C:14]([H:25])([H:26])[C:15]2([H:27])[C:16]([H:28])([H:29])[C:17]([H:31])[C:18]([H:32])([H:33])[C:19]2([H:34])[C:20]1([H:35])[H:36],61.0864
[C:0](=[C:1]([C:2]([C:3]([H:14])([H:15])[H:16])=[C:4]([c:5]1[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]1[H:22])[H:17])[H:13])([H:11])[H:12].[c:23]1[c:24]([H:29])[c:25]([H:30])[c:26]([H:31])[c:27]([H:32])[c:28]1[H:33]>>[C:0](=[C:1]([C:2]([C:3]([H:14])([H:15])[H:16])[C:4]([c:5]1[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]1[H:22])([H:17])[c:23]1[c:24]([H:29])[c:25]([H:30])[c:26]([H:31])[c:27]([H:32])[c:28]1[H:33])[H:13])([H:11])[H:12],-5.0208
[C:0](=[C:1]([H:4])[H:5])([H:2])[H:3].[C:6]([C:7]([C:8]([H:14])([H:15])[H:16])[C:9](=[S:10])[H:17])([H:11])([H:12])[H:13]>>[C:0](=[C:1]([H:4])[H:5])[H:3].[H:2][C:7]([C:6]([H:11])([H:12])[H:13])([C:8]([H:14])([H:15])[H:16])[C:9](=[S:10])[H:17],135.143
[C:0]1([H:7])([H:8])[C:1]([H:9])([H:10])[C:2]2([H:11])[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[C:5]1([H:16])[C:6]2([H:17])[H:18].[c:19]1[c:20]([H:25])[c:21]([H:26])[c:22]([H:27])[c:23]([H:28])[c:24]1[H:29]>>[C:0]1([H:7])([H:8])[C:1]([H:9])([H:10])[C:2]2[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[C:5]1([H:16])[C:6]2([H:17])[H:18].[H:11][c:19]1[c:20]([H:25])[c:21]([H:26])[c:22]([H:27])[c:23]([H:28])[c:24]1[H:29],2.092
[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])([C:4]#[C:5][H:11])[H:7])[H:6].[C:12](#[C:13][C:14]=[S:15])[H:16]>>[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])[C:4]#[C:5][H:11])[H:6].[H:7][C:14]([C:13]#[C:12][H:16])=[S:15],58.1576
[C:0]1=[c:1]2[c:2]([H:10])[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]2=[C:7]([H:14])[C:8]([H:15])([H:16])[C:9]1([H:17])[H:18]>>[C:0]1([H:17])=[c:1]2[c:2]([H:10])[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]2=[C:7]([H:14])[C:8]([H:15])([H:16])[C:9]1[H:18],98.44952
[C:0]([H:1])([H:2])([H:3])[H:4].[C:5]([C:6]([c:7]1[c:8]([H:17])[c:9]([H:18])[c:10]([H:19])[c:11]([H:20])[c:12]1[H:21])[H:16])([H:13])([H:14])[H:15]>>[C:0]([H:2])([H:3])[H:4].[H:1][C:6]([C:5]([H:13])([H:14])[H:15])([c:7]1[c:8]([H:17])[c:9]([H:18])[c:10]([H:19])[c:11]([H:20])[c:12]1[H:21])[H:16],91.2112
[C:0](=[C:1]([C:2]([H:7])([H:8])[H:9])[C:3](=[O:4])[H:10])([H:5])[H:6].[C:11]([H:12])([H:13])[H:14]>>[C:0](=[C:1]([C:2]([H:7])([H:8])[H:9])[C:3]=[O:4])([H:5])[H:6].[H:10][C:11]([H:12])([H:13])[H:14],18.11224312
[C:0]([H:1])([H:2])([H:3])[H:4].[S:5]([C:6]([c:7]1[c:8]([H:15])[c:9]([H:16])[c:10]([H:17])[c:11]([H:18])[c:12]1[H:19])[H:14])[H:13]>>[C:0]([H:2])([H:3])[H:4].[H:1][C:6]([S:5][H:13])([c:7]1[c:8]([H:15])[c:9]([H:16])[c:10]([H:17])[c:11]([H:18])[c:12]1[H:19])[H:14],102.09
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([H:6])[H:7])([H:3])([H:4])[H:5].[C:11]([C:12]([O:13][O:14])([H:18])[H:19])([H:15])([H:16])[H:17]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([H:6])[H:7])([H:4])[H:5].[H:3][O:14][O:13][C:12]([C:11]([H:15])([H:16])[H:17])([H:18])[H:19],76.48352
[C:0](=[C:1]([C:2]=[S:3])[H:6])([H:4])[H:5].[S:7]=[C:8]([C:9]([S:10][H:14])([H:12])[H:13])[H:11]>>[C:0](=[C:1]([C:2](=[S:3])[H:12])[H:6])([H:4])[H:5].[S:7]=[C:8]([C:9]([S:10][H:14])[H:13])[H:11],48.9528
[C:0](=[C:1]([C:2]([H:8])([H:9])[H:10])[C:3]([C:4]([H:11])([H:12])[H:13])=[O:5])([H:6])[H:7].[H:14]>>[C:0](=[C:1]([C:2]([H:8])([H:9])[H:10])[C:3]([C:4]([H:12])[H:13])=[O:5])([H:6])[H:7].[H:11][H:14],26.597688
[C:0]([C:1]([C:2]([C:3]([O:4][H:13])[H:12])([H:10])[H:11])([H:8])[H:9])([H:5])([H:6])[H:7].[O:14][O:15]>>[C:0]([C:1]([C:2]([C:3]([O:4][H:13])([H:12])[O:14][O:15])([H:10])[H:11])([H:8])[H:9])([H:5])([H:6])[H:7],-2.3731648
[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])[H:7])[H:6])([H:4])[H:5].[C:11]([C:12](=[C:13]([c:14]1[c:15]([H:30])[c:16]([H:31])[c:17]([H:32])[c:18]([H:33])[c:19]1[H:34])[H:29])[c:20]1[c:21]([H:35])[c:22]([H:36])[c:23]([H:37])[c:24]([H:38])[c:25]1[H:39])([H:26])([H:27])[H:28]>>[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])([H:7])[C:13]([C:12]([C:11]([H:26])([H:27])[H:28])[c:20]1[c:21]([H:35])[c:22]([H:36])[c:23]([H:37])[c:24]([H:38])[c:25]1[H:39])([c:14]1[c:15]([H:30])[c:16]([H:31])[c:17]([H:32])[c:18]([H:33])[c:19]1[H:34])[H:29])[H:6])([H:4])[H:5],54.7267
[C:0](=[C:1][C:2]([H:5])([H:6])[H:7])([H:3])[H:4].[C:8]([C:9]([C:10]([H:17])([H:18])[H:19])=[C:11]([C:12]([H:20])([H:21])[H:22])[C:13]([H:23])([H:24])[H:25])([H:14])([H:15])[H:16]>>[C:0](=[C:1]([C:2]([H:5])([H:6])[H:7])[C:9]([C:8]([H:14])([H:15])[H:16])([C:10]([H:17])([H:18])[H:19])[C:11]([C:12]([H:20])([H:21])[H:22])[C:13]([H:23])([H:24])[H:25])([H:3])[H:4],13.8072
